US05731352
4-OXO-4-(4-ETHYLPHENYL)BUTYRIC ACID
5 cm3 of ethylbenzene and 2.6 g of aluminum chloride are mixed with magnetic stirring in a 50-cm3 flask. The solution is cooled in an ice bath and 1 g of succinic anhydride is then added. The reaction mixture is stirred for 1 h 30 min at a temperature of 0° C. and then for 3 h at room temperature. It is poured into ice. The resulting mixture is acidified by adding 1N hydrochloric acid (pH 3-4). It is extracted with 3 volumes of ether. The organic phases are washed 3 times with 10% potassium carbonate solution. The aqueous phases are combined and acidified by adding concentrated hydrochloric acid. The precipitate obtained is drained and then recrystallized.

reactant | ethylbenzene | 5 cm3 | C(C)C1=CC=CC=C1 | C8H10
reactant | aluminum chloride | 2.6 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | succinic anhydride | 1 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | hydrochloric acid | 1N, pH 3-4 | Cl | ClH
product | 4-OXO-4-(4-ETHYLPHENYL)BUTYRIC ACID | O=C(CCC(=O)O)C1=CC=C(C=C1)CC | C12H14O3
